US07192974B2
[(5S)-3-(5-{2-Fluoro-4-[(5R)-2-oxo-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-3-yl]phenyl}pyridin-2-yl)-4,5-dihydroisoxazol-5-yl]methyl 4-(dimethylamino)pentanoate
(5R)-3-(3-Fluoro-4-{6-[(5S)-5-(hydroxymethyl)-4,5-dihydroisoxazol-3-yl]pyridin-3-yl}phenyl)-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one (Example 1,150 mg, 0.342 mmol), 4-(dimethylamino)pentanoic acid (63.6 mg, 0.514 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (131.5 mg, 0.69 mmol), and 4-dimethylaminopyridine (10.5 mg, 0.09 mmol) were added to DMF (3 ml). The reaction was allowed to stir overnight at room temperature followed by addition to EtOAc (40 ml). The precipitate was collected by filtration and then purified by column chromatography 0–5% MeOH/CH2Cl2 to yield a white powder (100 mg).

reactant | (5R)-3-(3-Fluoro-4-{6-[(5S)-5-(hydroxymethyl)-4,5-dihydroisoxazol-3-yl]pyridin-3-yl}phenyl)-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one | 0.342 mmol, 1,150 mg | FC=1C=C(C=CC1C=1C=NC(=CC1)C1=NO[C@@H](C1)CO)N1C(O[C@H](C1)CN1N=NC=C1)=O | C21H19FN6O4
reactant | 4-(dimethylamino)pentanoic acid | 0.514 mmol, 63.6 mg | CN(C(CCC(=O)O)C)C | C7H15NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.69 mmol, 131.5 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.09 mmol, 10.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | EtOAc | 40 ml | CCOC(=O)C | C4H8O2
product | [(5S)-3-(5-{2-Fluoro-4-[(5R)-2-oxo-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-3-yl]phenyl}pyridin-2-yl)-4,5-dihydroisoxazol-5-yl]methyl 4-(dimethylamino)pentanoate | 100 mg | CN(C(CCC(=O)OC[C@@H]1CC(=NO1)C1=NC=C(C=C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F)C)C | C28H32FN7O5
